US06645970B2
2-(2-chloro-quinazolin-4-yl)-acetamide (221 mg, 1.0 mmol) is dissolved in 1-methyl-2-pyrrolidinone (2.0 mL) and N-methylpiperazine (555 μL, 5.0 eq.) is added. The mixture is heated 45 min. at 50° C. AcOEt is added and the suspension is filtered to afford 2-[2-(4-methyl-piperazin-1-yl)-quinazolin-4-yl]-acetamide as a white solid.

reactant | 2-(2-chloro-quinazolin-4-yl)-acetamide | 1.0 mmol, 221 mg | ClC1=NC2=CC=CC=C2C(=N1)CC(=O)N | C10H8ClN3O
reactant | N-methylpiperazine | 555 μL, 5.0 eq. | CN1CCNCC1 | C5H12N2
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | 1-methyl-2-pyrrolidinone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | 2-[2-(4-methyl-piperazin-1-yl)-quinazolin-4-yl]-acetamide | CN1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)CC(=O)N | C15H19N5O
